US07259266B2
Step 2. Preparation of ethyl 6-chloro-7-[(5-ethylpyrimidin-2-yl)oxy]-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To a mixture of ethyl 6-chloro-7-hydroxyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate (0.2g, 0.62 mmol) and potassium carbonate (342 mg, 2.48 mmol) in 3 mL of dry DMF was added a reagent of 2-chloro-5-ethylpyrimidine (450 uL, 3.72 mmol). The reaction was then heated at 130° C. for 51 hours. After cooling to room temperature, to the reaction was added 150 mL of EtOAc. The resulting organic phase was washed with brine, and dried over anhydrous magnesium sulfate. After removing the solvents, the residue was purified on a short silica gel column with EtOAc/Hexane to afford 260 mg of a brown oil, which was used in the next step without further purification.

reactant | ethyl 6-chloro-7-hydroxyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.62 mmol, 0.2g | ClC=1C=C2C=C(C(OC2=CC1O)C(F)(F)F)C(=O)OCC | C13H10ClF3O4
reactant | potassium carbonate | 2.48 mmol, 342 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-5-ethylpyrimidine | 3.72 mmol, 450 uL | ClC1=NC=C(C=N1)CC | C6H7ClN2
reactant | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | ethyl 6-chloro-7-[(5-ethylpyrimidin-2-yl)oxy]-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 260 mg | ClC=1C=C2C=C(C(OC2=CC1OC1=NC=C(C=N1)CC)C(F)(F)F)C(=O)OCC | C19H16ClF3N2O4
